US07700633B2
To a stirring solution of 5-[7-(3-aminomethylphenyl)-3-benzyloxynaphthalen-2-yl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one (0.046 g, 0.097 mmol) and triethylamine (0.014 mL, 0.098 mmol) in THF (3 mL) at 0° C. is added methyl chloroformate (0.008 mL, 0.104 mmol). The reaction is stirred for 30 min and then quenched with water and extracted with CH2Cl2 (3×25 mL). The organic layers are combined and concentrated. The residue is purified via Biotage Sp1 eluting with 5-60% CH3CN/H2O to afford {3-[6-benzyloxy-7-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-naphthalen-2-yl]-benzyl}-carbamic acid methyl ester: (M−H)−=530.

reactant | 5-[7-(3-aminomethylphenyl)-3-benzyloxynaphthalen-2-yl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.097 mmol, 0.046 g | NCC=1C=C(C=CC1)C1=CC=C2C=C(C(=CC2=C1)N1CC(NS1(=O)=O)=O)OCC1=CC=CC=C1 | C26H23N3O4S
reactant | triethylamine | 0.098 mmol, 0.014 mL | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 0.104 mmol, 0.008 mL | ClC(=O)OC | C2H3ClO2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | {3-[6-benzyloxy-7-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-naphthalen-2-yl]-benzyl}-carbamic acid methyl ester | COC(NCC1=CC(=CC=C1)C1=CC2=CC(=C(C=C2C=C1)OCC1=CC=CC=C1)N1S(NC(C1)=O)(=O)=O)=O | C28H25N3O6S
